US07157476B2
Methyl (3-Methanesulfonylamino-phenyl)-acetate:
Methyl 3-aminophenylacetate (2.26 g, 13.7 mmol) was dissolved in dry methylene chloride (20 mL) and cooled to 0° C. Pyridine (2.2 mL, 27.2 mmol) was added followed by dropwise addition of methanesulfonyl chloride (1.3 mL, 16.8 mmol). The mixture was stirred at 0° C. for 1 hour and at room temperature for 3 hours, then poured into 100 mL of saturated sodium bicarbonate solution. The organic layer was washed with saturated sodium bicarbonate (100 mL), 1N HCl (2×100 mL) and brine. Dried over MgSO4. Solvent was evaporated to reveal methyl 3-(methanesulfonyl)phenylacetate. (3.36 g, 100%). 1H NMR (500 MHz, CDCl3) δ 7.32 (1H, dd), 7.2–7.1 (3H, m), 6.57 (1H, s), 3.72 (3H, s), 3.64 (2H, s), 3.02 (3H, s).

reactant | Methyl 3-aminophenylacetate | 13.7 mmol, 2.26 g | NC=1C=C(C=CC1)CC(=O)OC | C9H11NO2
reactant | Pyridine | 27.2 mmol, 2.2 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 16.8 mmol, 1.3 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | Methyl (3-Methanesulfonylamino-phenyl)-acetate | CS(=O)(=O)NC=1C=C(C=CC1)CC(=O)OC | C10H13NO4S
